data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1c(F)cccc1OC)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1c(F)cccc1OC)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1c(F)cccc1OC)C(C)C", "products": "COc1cccc(F)c1[Si]1(c2ccccc2)OC(C(C)C)C[CH]2[CH2][RhH]21"}, {"reactants": "COc1cccc(F)c1[Si]1(c2ccccc2)OC(C(C)C)C[CH]2[CH2][RhH]21", "products": "COc1cccc(F)c1[Si]1(c2ccccc2)OC(C(C)C)CC1[CH2][RhH]"}, {"reactants": "COc1cccc(F)c1[Si]1(c2ccccc2)OC(C(C)C)CC1[CH2][RhH].[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "COc1cccc(F)c1[Si]1(c2ccccc2)OC(C(C)C)CC1C[C](=O)[RhH]"}, {"reactants": "COc1cccc(F)c1[Si]1(c2ccccc2)OC(C(C)C)CC1C[C](=O)[RhH]", "products": "COc1cccc(F)c1[Si]1(c2ccccc2)OC(C(C)C)CC1CC=O.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "NaOMe"}], "steps": [{"reactants": "COC1OC2(C)OC1C(OS(=O)(=O)c1ccc(C)cc1)C(OS(=O)(=O)c1ccc(C)cc1)C2OS(=O)(=O)c1ccc(C)cc1.[O-]C", "products": "COC1OC2(C)C=C(OS(=O)(=O)c3ccc(C)cc3)C(OS(=O)(=O)c3ccc(C)cc3)C1O2"}, {"reactants": "COC1OC2(C)C=C(OS(=O)(=O)c3ccc(C)cc3)C(OS(=O)(=O)c3ccc(C)cc3)C1O2.[O-]C", "products": "COC1OC2(C)C=C([O-])C(OS(=O)(=O)c3ccc(C)cc3)C1O2"}, {"reactants": "COC1OC2(C)C=C([O-])C(OS(=O)(=O)c3ccc(C)cc3)C1O2", "products": "COC1OC2(C)OC1C1C(=O)C12"}, {"reactants": "COC1OC2(C)OC1C1C(=O)C12.[O-]C", "products": "COC1OC2(C)OC1C1C2C1([O-])OC"}, {"reactants": "COC1OC2(C)OC1C1C2C1([O-])OC.CO", "products": "COC(=O)C1CC2OC1(C)OC2OC"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "COc1ccccc1C(=O)C1C2CCC1C2", "products": "COc1ccccc1[C]([O])C1C2CCC1C2"}, {"reactants": "COc1ccccc1[C]([O])C1C2CCC1C2", "products": "COc1ccccc1C([O])=CC1C[CH]CC1"}, {"reactants": "COc1ccccc1C([O])=CC1C[CH]CC1", "products": "COc1ccccc1C(O)=CC1C=CCC1"}, {"reactants": "COc1ccccc1C(O)=CC1C=CCC1", "products": "COc1ccccc1C(=O)CC1C=CCC1"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "COC(O[C@@H]1[C@@H](OCc2ccccc2)CN2OC3(CC3)C[C@H]12)c1ccc(C)cc1", "products": "COC(O[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1)c1ccc(C)cc1"}, {"reactants": "COC(O[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1)c1ccc(C)cc1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(OC)c1ccc(C)cc1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(OC)c1ccc(C)cc1", "products": "COC(O[C@H]1CN2CCC(=O)C[C@H]2[C@@H]1OCc1ccccc1)c1ccc(C)cc1"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1ccc(OC)cc1F)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(OC)cc1F)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(OC)cc1F)C(C)C", "products": "COc1ccc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)c(F)c1"}, {"reactants": "COc1ccc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)c(F)c1", "products": "COc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])c(F)c1"}, {"reactants": "COc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])c(F)c1.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "COc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])c(F)c1"}, {"reactants": "COc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])c(F)c1", "products": "COc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2CC=O)c(F)c1.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "ZnCl2"}], "steps": [{"reactants": "COc1c(C)cc(NN=CCc2ccccc2)cc1Cl.Cl[Zn]Cl", "products": "COc1c(C)cc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc1Cl"}, {"reactants": "COc1c(C)cc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc1Cl", "products": "COc1c(C)cc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc1Cl.[H+]"}, {"reactants": "COc1c(C)cc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc1Cl", "products": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2c(C)cccc2Cl)C(=N)C=C1"}, {"reactants": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2c(C)cccc2Cl)C(=N)C=C1", "products": "COc1c(Cl)cc(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1C"}, {"reactants": "COc1c(Cl)cc(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1C", "products": "COc1c(Cl)cc2c(c1C)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2"}, {"reactants": "COc1c(Cl)cc2c(c1C)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2.[H+]", "products": "COc1c(Cl)cc2c(c1C)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2"}, {"reactants": "COc1c(Cl)cc2c(c1C)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2", "products": "COc1c(Cl)cc2c(c1C)C(c1ccccc1)C=[NH+]2.N[Zn-](Cl)Cl"}, {"reactants": "COc1c(Cl)cc2c(c1C)C(c1ccccc1)C=[NH+]2", "products": "COc1c(Cl)cc2[nH]cc(-c3ccccc3)c2c1C.[H+]"}]}
